US06057290
To a solution of N-tert-butoxycarbonylphenylalanine (53 g, 0.2 mol) and p-nitrophenol (27.8 g, 0.2 mol) in ethyl acetate (200 ml) in an ice-water bath was dropwise added a solution of N,N'-dicyclohexylcarbodiimide (41.2 g, 0.2 mol) in ethyl acetate (100 ml), and the mixture was stirred in an ice-water bath for 3 hours and then at room temperature for 20 hours. The precipitated N,N'-dicyclohexylcarbodiurea was filtered off and the filtrate was concentrated under reduced pressure. The residue thus obtained was recrystallized from ethyl acetate-hexane to give N-tert-butoxycarbonylphenylalanine p-nitrophenyl ester [61.7 g, 80% (% by weight, hereinafter the same)].

reactant | N-tert-butoxycarbonylphenylalanine | 0.2 mol, 53 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | p-nitrophenol | 0.2 mol, 27.8 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | N,N'-dicyclohexylcarbodiimide | 0.2 mol, 41.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-tert-butoxycarbonylphenylalanine p-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C20H22N2O6
